US04954518
4 g of sodium hydroxide was dissolved in 250 ml of water. Therein was dissolved 27.9 g of 3-methylsulfonylamino-4-phenoxyphenol. Thereto was added an aqueous solution obtained by dissolving 10.9 g of 3-chloropropionic acid and 4 g of sodium hydroxide in 30 ml of water. The mixture was refluxed for 30 minutes. The reaction mixture was water-cooled and adjusted to pH 8 with 4N hydrochloric acid. 70 ml of ethyl acetate was added thereto. The aqueous layer was separated, adjusted to pH 4 with 4N hydrochloric acid and extracted with 100 ml of ethyl acetate. The resulting extracts were washed with water and a saturated aqueous sodium chloride solution in this order, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was mixed with diethyl ether. The resulting solid was collected by filtration to obtain 8.1 g (yield: 23.1%) of 3-(3-methylsulfonylamino-4-phenoxyphenoxy)propionic acid having a melting point of 145°-149° C.

reactant | sodium hydroxide | 4 g | [OH-].[Na+]
reactant | 3-methylsulfonylamino-4-phenoxyphenol | 27.9 g | CS(=O)(=O)NC=1C=C(C=CC1OC1=CC=CC=C1)O | C13H13NO4S
reactant | 3-chloropropionic acid | 10.9 g | ClCCC(=O)O | C3H5ClO2
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | water | 250 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | 3-(3-methylsulfonylamino-4-phenoxyphenoxy)propionic acid | 8.1 g, yield: 23.1% | CS(=O)(=O)NC=1C=C(OCCC(=O)O)C=CC1OC1=CC=CC=C1 | C16H17NO6S
